US04705554
1-[4-(2,3-dihydro-2,2-dimethyl-5-benzofuranyloxy)phenyl]-3-methoxy-3-methylurea
6.5 g of 4-(2,3-dihydro-2,2-dimethyl-5-benzofuranyloxy)aniline was dissolved in 30 ml of pyridine, and 3.8 g of N-methoxy-N-methylcarbamoyl chloride was gradually dropwise added thereto over a period of 30 minutes under cooling with ice. Stirring was continued for 1.5 hours, and then pyridine was distilled off under reduced pressure. The residual oily substance was dissolved in 100 ml of toluene, and washed sequentially with water, a dilute hydrochloric acid aqueous solution and a saturated sodium chloride aqueous solution. Then, toluene was distilled off. The residue was purified by silica gel column chromatography by using a solvent mixture of ethyl acetate/n-hexane=1/3 as the developer, to obtain 7.5 g of compound No. 19 as identified in Table 1.

reactant | 4-(2,3-dihydro-2,2-dimethyl-5-benzofuranyloxy)aniline | 6.5 g | CC1(OC2=C(C1)C=C(C=C2)OC2=CC=C(N)C=C2)C | C16H17NO2
reactant | N-methoxy-N-methylcarbamoyl chloride | 3.8 g | CON(C(=O)Cl)C | C3H6ClNO2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 1-[4-(2,3-dihydro-2,2-dimethyl-5-benzofuranyloxy)phenyl]-3-methoxy-3-methylurea | 7.5 g | CC1(OC2=C(C1)C=C(C=C2)OC2=CC=C(C=C2)NC(=O)N(C)OC)C | C19H22N2O4
